US05387603
To a solution of ethyl 4-[5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]-7-carbamoylindolin-1-yl]butyrate (88 mg) in ethanol (1 ml) was added a 1N aqueous sodium hydroxide solution (180 μl), and the mixture was stirred at room temperature for 6 hours. The reaction mixture was purified by medium pressure liquid column chromatography on ODS using a mixture of methanol and water (1/1) as eluent to give 51 mg of sodium 4-[5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]-7-carbamoylindolin-1-yl]butyrate as an oil.

reactant | ethyl 4-[5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]-7-carbamoylindolin-1-yl]butyrate | 88 mg | C(C)OC1=C(OCCNC(CC=2C=C3CCN(C3=C(C2)C(N)=O)CCCC(=O)OCC)C)C=CC=C1 | C28H39N3O5
reactant | sodium hydroxide | 1N, 180 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | sodium 4-[5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]-7-carbamoylindolin-1-yl]butyrate | 51 mg | C(C)OC1=C(OCCNC(CC=2C=C3CCN(C3=C(C2)C(N)=O)CCCC(=O)[O-])C)C=CC=C1.[Na+] | InChI=1S/C26H35N3O5.Na/c1-3-33-22-7-4-5-8-23(22)34-14-11-28-18(2)15-19-16-20-10-13-29(12-6-9-24(30)31)25(20)21(17-19)26(27)32;/h4-5,7-8,16-18,28H,3,6,9-15H2,1-2H3,(H2,27,32)(H,30,31);/q;+1/p-1
